US08183380B2
{2-[2-((R)-Indan-1-ylamino)-quinolin-6-ylamino]-ethyl}-methyl-carbamic acid tert-butyl ester
A mixture of (R)—N2-indan-1-yl-quinoline-2,6-diamine (453 mg, 1.645 mmol) in Methanol (10 mL) with acetic acid (0.3 mL, 4.935 mmol) and commercially available methyl-(2-oxo-ethyl)carbamic acid tert-butyl ester (300 mg, 1.731 mmol) was stirred at 23° C. for 1 h. Portionwise addition of sodium cyanoborohydride (286 mg, 4.11 mmol) was followed by additional stirring at 23° C. for 3 h. Poured onto saturated NaHCO3-solution and extracted twice with ethyl acetate, dried over Na2SO4 and evaporated totally gave a crude product which was purified by flash chromatography with heptane and ethyl acetate to give the title compound as a yellow foam (550 mg, 73%); MS: m/e=433.4 (M+H+).

reactant | (R)—N2-indan-1-yl-quinoline-2,6-diamine | 1.645 mmol, 453 mg | [C@H]1(CCC2=CC=CC=C12)NC1=NC2=CC=C(C=C2C=C1)N | C18H17N3
reactant | acetic acid | 4.935 mmol, 0.3 mL | C(C)(=O)O | C2H4O2
reactant | methyl-(2-oxo-ethyl)carbamic acid tert-butyl ester | 1.731 mmol, 300 mg | C(C)(C)(C)OC(N(CC=O)C)=O | C8H15NO3
reactant | sodium cyanoborohydride | 4.11 mmol, 286 mg | C(#N)[BH3-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | Methanol | 10 mL | CO | CH4O
product | {2-[2-((R)-Indan-1-ylamino)-quinolin-6-ylamino]-ethyl}-methyl-carbamic acid tert-butyl ester | 550 mg, 73% | C(C)(C)(C)OC(N(C)CCNC=1C=C2C=CC(=NC2=CC1)N[C@@H]1CCC2=CC=CC=C12)=O | C26H32N4O2
